US07429665B2
2-[4-(2-Ethyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting ethyl hydrazine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.35 (bs, 2H), 8.23 (d, J=8.3 Hz, 1 H), 8.08 (d, J=8.3 Hz, 1 H), 7.85 (d, J=7.4 Hz, 1H), 7.83 (s, 1 H), 7.74 (m, 2 H), 7.57 (t, J=7.9 Hz, 1H), 7.21 (d, J=8.7 Hz, 2 H), 7.14 (d, J=9.1 Hz, 2 H), 7.04 (m, 2H) 5.42 (s, 2H), 4.03 (q, J=7.5 Hz, 2H), 1.36 (t, J=7.5 Hz, 3H); MS: (M+H m/z=407.3).

reactant | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | ethyl hydrazine | C(C)NN | C2H8N2
product | 2-[4-(2-Ethyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline | C(C)N1N=CC(=C1C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1 | C26H22N4O
